US03937833
To 200 ml of water containing 12.0 g (0.3 mole) of sodium hydroxide and 8.5 g (0.039 mole) of 2,8-dihydroxydibenzothiophene are added 200 ml of toluene and 19.8 g (0.1 mole) of 3-piperidinopropyl chloride hydrochloride, and the heterogeneous reaction mixture is stirred and heated to reflux for 16 hours. After cooling, the organic layer is washed with water, dried over magnesium sulfate, and concentrated in vacuo. The free base is chromatographed on alumina, using chloroform as the eluant. After removing the chloroform from the fraction collected, the oily residue is dissolved in ether and treated with ethereal hydrogen chloride. The resulting solid is purified by two recrystallizations from methanol-butanone to give 2,8-bis(3-piperidinopropoxy)dibenzothiophene dihydrochloride, M.P. 240°-242°C.

reactant | water | 0.3 mole, 200 ml, 12.0 g | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,8-dihydroxydibenzothiophene | 0.039 mole, 8.5 g | OC1=CC2=C(SC3=C2C=C(C=C3)O)C=C1 | C12H8O2S
reactant | 3-piperidinopropyl chloride hydrochloride | 0.1 mole, 19.8 g | Cl.N1(CCCCC1)CCCCl
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2,8-bis(3-piperidinopropoxy)dibenzothiophene dihydrochloride | Cl.Cl.N1(CCCCC1)CCCOC1=CC2=C(SC3=C2C=C(C=C3)OCCCN3CCCCC3)C=C1 | InChI=1S/C28H38N2O2S.2ClH/c1-3-13-29(14-4-1)17-7-19-31-23-9-11-27-25(21-23)26-22-24(10-12-28(26)33-27)32-20-8-18-30-15-5-2-6-16-30;;/h9-12,21-22H,1-8,13-20H2;2*1H
